US07763584B2
A mixture of (2S,4R)-methyl 4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)-3-(2-nitro-N-(pent-4-enyl)phenylsulfonamido)propanoyl)-4-methoxypyrrolidine-2-carboxylate (185 mg, 0.246 mmol) and LiOH monohydrate (118 mg, 4.93 mmol) in tetrahydrofuran (2 mL)/MeOH (0.5 mL)/Water (1 mL) was stirred at rt for 18 h. The reaction mixture was then concentrated in vacuo and diluted with 5 mL of water. It was then washed with ether. The aqueous phase was adjusted to pH=4 using 1N HCl. It was then extracted with EtOAc, dried over MgSO4, filtered and concentrated in vacuo to yield 160 mg (87%) of (2S,4R)-4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)-3-(2-nitro-N-(pent-4-enyl)phenylsulfonamido)propanoyl)-4-methoxypyrrolidine-2-carboxylic acid as a white solid.

reactant | (2S,4R)-methyl 4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)-3-(2-nitro-N-(pent-4-enyl)phenylsulfonamido)propanoyl)-4-methoxypyrrolidine-2-carboxylate | 0.246 mmol, 185 mg | C1(=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C([C@H](CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCCC=C)NC(=O)OC(C)(C)C)=O)C(=O)OC)OC)C1=CC=CC=C1 | C38H46N4O10S
reactant | MeOH | 0.5 mL | CO | CH4O
reactant | Water | 1 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2S,4R)-4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)-3-(2-nitro-N-(pent-4-enyl)phenylsulfonamido)propanoyl)-4-methoxypyrrolidine-2-carboxylic acid | 160 mg, 87% | C1(=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C([C@H](CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCCC=C)NC(=O)OC(C)(C)C)=O)C(=O)O)OC)C1=CC=CC=C1 | C37H44N4O10S
